* PSpice Model Editor - Version 16.0.0
*$
*****************************************************************************
** This product is designed as an aid for customers of Texas Instruments.  **
** No warranties, either expressed or implied, with respect to this third  **
** party software (if any) or with respect to its fitness for any          **
** particular purpose is claimed by Texas Instruments or the author. The   **
** software (if any) is provided solely on an "as is" basis. The entire    **
** risk as to its quality and performance is with the customer             **
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5777 W. Century Blvd., Suite 876
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
* (C) Copyright 2008 Texas Instruments Incorporated. All rights reserved.
* Released by: Analog e-Lab Design Center, Texas Instruments Inc.
* Part: UCC28C43 (can be used for UCC38C43 also)
* Date: 11/05/2008
* Model Type: Transient Steady State
* Simulator: PSpice
* EVM Order Number: UCC38C44
* EVM Users Guide: slua274a, Oct 2008
* Datasheet: slus458d, Rev Jan 2007
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT UCC28C43_STEADY  COMP   FB   CS   RTCT    GND    OUT   VDD   VREF  
****OSCILLATOR*****
STOF1 8 GND RTCT GND SOSC
GBDISCH RTCT GND Value = { IF ( V(8,GND) < 2.5 & V(13,GND) > 2.5, 8.4M, 0 ) }
RPULL 8 VREF 100K
****UVLO***********
STOF2 VDD 19 VDD GND SUVLO
RUVLO 19 GND 1MEG
RSTDBY VDD GND 309K ; startup current 
ROP 10 GND 2535 ; operating current
****REFERENCE*******
EBREF 13 GND Value = { IF ( V(19,GND) > 6, 5, 0 ) } 
RREG 10 VREF 0.158
CREF VREF GND 1N
V3 13 10 
**GB6 19 GND Value = { IF ( V(19,GND) > 4 , (I(V3)) , 0 ) }
GB6 19 GND Value = { IF (V(19,GND) > 4 , IF((I(V3)-I(EMY19))>2,
+ 2, IF((I(V3)-I(EMY19))<0, 0,(I(V3)-I(EMY19)))), 0 ) }
****CURRENT COMPARATOR*******
EB3 21 GND Value = { IF ( V(CS,GND) > V(16,GND), 5, 0 ) }
R7 CS GND 1MEG
RDELAY 21 22 1K
CDELAY 22 GND 200P
****ERROR AMPLIFIER**********
XAMP VREF FB COMP GND 28C4xAMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 GND 1MEG
EB2 16 GND Value = { IF ( V(11,GND) > 1, 1, V(11,GND) ) }
V4 COMP 9 1
D1 9 12 D2
****OUTPUT DRIVER************
EMY19 191 GND VALUE = {V(19,GND)} 
XDRIVE 191 GND 5 OUT FETOUTC4X ; FETOUTC4X 2845OUT 
****S-R LATCH****************
XLATCH 8 VREF 22 GND 6 7 FFLOPC2
****OUTPUT AND GATE**********
EOut 5 GND Value = { IF ( V(VREF,GND) > 2.5 & V(7,GND) > 
+2.5 & V(8,GND) > 2.5, 5, 0 ) }
.MODEL SOSC VSWITCH (RON=.01 ROFF=1MEG VT=1.45 VH=0.95) ; VT=1.45 set to match 53k @ 3.3n/10k
.MODEL SUVLO VSWITCH (RON=.01 ROFF=10MEG VT=8.0 VH=0.4)
.MODEL D2 D 
.ENDS UCC28C43_STEADY
*$
*****************************************************************************
** This product is designed as an aid for customers of Texas Instruments.  **
** No warranties, either expressed or implied, with respect to this third  **
** party software (if any) or with respect to its fitness for any          **
** particular purpose is claimed by Texas Instruments or the author. The   **
** software (if any) is provided solely on an "as is" basis. The entire    **
** risk as to its quality and performance is with the customer             **
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5777 W. Century Blvd., Suite 876
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
* (C) Copyright 2008 Texas Instruments Incorporated. All rights reserved.
* Released by: Analog e-Lab Design Center, Texas Instruments Inc.
* Part: UCC28C43 (can be used for UCC38C43 also)
* Date: 11/05/2008
* Model Type: Transient Startup
* Simulator: PSpice
* EVM Order Number: UCC38C44
* EVM Users Guide: slua274a, Oct 2008
* Datasheet: slus458d, Rev Jan 2007
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT UCC28C43_START  COMP   FB   CS   RTCT    GND    OUT   VDD   VREF  
****OSCILLATOR*****
STOF1 8 GND RTCT GND SOSC
GBDISCH RTCT GND Value = { IF ( V(8,GND) < 2.5 & V(13,GND) > 2.5, 8.4M, 0 ) }
RPULL 8 VREF 100K
****UVLO***********
STOF2 VDD 19 VDD GND SUVLO
RUVLO 19 GND 1MEG
***CDUMMY 19 GND 0.01p
RSTDBY VDD GND 309K ; startup current 
ROP 10 GND 2535 ; operating current
****REFERENCE*******
EBREF 13 GND Value = { IF ( V(19,GND) > 6, 5, 0 ) } 
RREG 10 VREF 0.158
CREF VREF GND 1N
V3 13 10 
***GB6 19 GND Value = { IF ( V(19,GND) > 7 , I(V3) , 0 ) }
GB6 19 GND Value = { IF (V(19,GND) > 4 , IF((I(V3)-I(EMY19))>10e-3,
+ 10e-3, IF((I(V3)-I(EMY19))<0, 0,(I(V3)-I(EMY19)))), 0 ) }
****CURRENT COMPARATOR*******
EB3 21 GND Value = { IF ( V(CS,GND) > V(16,GND), 5, 0 ) }
R7 CS GND 1MEG
RDELAY 21 22 1K
CDELAY 22 GND 200P
****ERROR AMPLIFIER**********
XAMP VREF FB COMP GND 28C4xAMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 GND 1MEG
EB2 16 GND Value = { IF ( V(11,GND) > 1, 1, V(11,GND) ) }
V4 COMP 9 1
D1 9 12 D2
****OUTPUT DRIVER************
EMY19 191 GND VALUE = {V(19,GND)} 
***XDRIVE 19 GND 5 OUT FETOUTC4X ; FETOUTC4X 2845OUT 
XDRIVE 191 GND 5 OUT FETOUTC4X ; FETOUTC4X 2845OUT 
****S-R LATCH****************
XLATCH 8 VREF 22 GND 6 7 FFLOPC2
****OUTPUT AND GATE**********
EOut 5 GND Value = { IF ( V(VREF,GND) > 2.5 & V(7,GND) > 
+2.5 & V(8,GND) > 2.5, 5, 0 ) }
.MODEL SOSC VSWITCH (RON=.01 ROFF=1MEG VT=1.45 VH=0.95) ; VT=1.45 set to match 53k @ 3.3n/10k
.MODEL SUVLO VSWITCH (RON=.01 ROFF=5MEG VT=8.0 VH=0.4)
.MODEL D2 D 
.ENDS UCC28C43_START
*$
.SUBCKT 28C4xAMP  4     1    9   20
*                VREF  INV  OUT V-
R1 10 4 100K
R2 10 20 100K
R3 6 20 316MEG
C1 6 20 8.7p ; Bandwidth
E1 5 20 6 20 1
R4 1 20 50MEG ; Input Bias
I2 4 9 1m ; Isource
R6 20 3 300
Q1 20 13 9 QPMOD
I3 13 20 68U 
D14 3 13 DMOD
D15 20 6 DCLAMP
L1 2 3 10U
C2 3 20 200P
R9 5 2 5
C5 2 20 0.02U
G1 20 6 10 1 100U
.MODEL QPMOD PNP BF=217.647 ; sets the Isink current
.MODEL DCLAMP D (RS=10 BV=6.8 IBV=.01) 
.MODEL DMOD D
.ENDS 28C4xAMP
*$
.SUBCKT 2845OUT  4  7  3  12
*                +V -V IN OUT
I3 4 8 100U
D3 8 4 DMOD
D4 12 8 DMOD
Q3 8 1 9 QIN
Q4 12 9 7 QMOD
Q5 4 8 6 QMOD
I4 7 1 .9M
R1 3 2 10K
Q8 1 2 7 QIN
Q2 4 6 12 QMOD2
.MODEL QMOD NPN RC=1.5 RE=.5 RB=100 IKF=0.5 CJC=0.4P
.MODEL QMOD2 NPN TF=400P TR=400P
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.15P TR=1N TF=4N
.MODEL DMOD D RS=1 IS=0.4U
.ENDS 2845OUT
*$
.SUBCKT FETOUTC4X  Vcc  Gnd In Out
*                  Vcc  -V  IN OUT
* simplify with b element with 5.5 ohms make it stiff vcc and zero
Rm1 Vcc Out 10MEG
M1 Vcc 3 Out Out _NMOS 
Rm2 Out Gnd 10MEG
M2 Gnd 3 Out Out _PMOS 
EB1 2 Out Value= { IF ( V(In,Gnd) > 2 , 5 , -5 ) }
R1 2 3 75
C2 3 Gnd 10p
C3 3 Vcc 10p
R2 3 Gnd 10Meg
.MODEL _NMOS NMOS KP=1 NSUB=1E9 RD=10 VTO=3
.MODEL _PMOS PMOS KP=1 RD=5.5 VTO=-3 NSUB=1E9
.ENDS FETOUTC4X
*$
.SUBCKT FFLOPC2 1  2 11 12 5  6
*              CLK D R  S  QB Q
X1 7 4 2 8 NAND3_0C2 
X2 8 3 10 9 NAND3_0C2 
X3 1 8 10 7 NAND3_1C2 
X4 4 9 1 10 NAND3_0C2 
X5 4 7 6 5 NAND3_1C2 
X6 5 10 3 6 NAND3_0C2 
X7 11 4 INV 
X8 12 3 INV 
.ENDS FFLOPC2
*$
.SUBCKT NAND3_0C2 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800M) & (V(2)>800M) & (V(3)>800M), 0, 5 ) }
R1 5 4 100
C1 4 0 20P IC=0
.ENDS NAND3_0C2 
*$
.SUBCKT NAND3_1C2 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800M) & (V(2)>800M) & (V(3)>800M), 0, 5 ) }
R1 5 4 100
C1 4 0 20P IC=3.5
.ENDS NAND3_1C2 
*$
.SUBCKT INV 1 2
E1 3 0 VALUE = { IF ( V(1)>800mV, 0, 5 ) }
R1 3 2 100
C1 2 0 10P IC=3.5
.ENDS INV
*$
*Diodes,Inc, Zener 10V-50V; 16.0V  1.00W   
.SUBCKT DI_SMAZ16  1   2
*     Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 14.9
.MODEL DF D ( IS=25.7p RS=0.756 N=1.10
+ CJO=377p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=5.15f RS=0.460 N=1.49 )
.ENDS DI_SMAZ16  
*$
.SUBCKT FQB6N80   10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.711
RS  40  3  38.5m
RG  20  2  42.7
CGS  2  3  1.14n
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  180p
R1  13  0  1.00
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1.00
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.50n
.MODEL DMOS  NMOS(LEVEL=1 LAMBDA=2.00m VTO=4.00 KP=8.40
.MODEL DCGD D (CJO=180p VJ=0.600 M=0.680
.MODEL DSUB D (IS=24.1n N=1.50 RS=77.6m BV=800
+ CJO=477p VJ=0.800 M=0.420 TT=650n
.MODEL DLIM D (IS=100U)
.ENDS FQB6N80
*$
.model D1N4148  D(Is=2.682n N=1.836 Rs=.5664 Ikf=44.17m Xti=3 Eg=1.11 Cjo=4p
+ M=.3333 Vj=.5 Fc=.5 Isr=1.565n Nr=2 Bv=100 Ibv=100u Tt=11.54n)
*$
.SUBCKT C94SA476X0020 2 4
R1 2 3 38.106M
C1 3 1 46.980U IC = 12
R3 5 4 150
R2 2 4 21.285MEG
R4 3 26 4.7633G
R6 3 7 4.7633K
C5 7 1 18.792U IC = 12
R7 3 10 47.633 
C6 10 1 18.792U IC = 12
R8 3 13 476.33M
C7 13 1 18.792U IC = 12
C2 26 1 18.792U IC = 12
R9 3 28 47.633MEG
C3 28 1 18.792U IC = 12
R10 3 29 476.33K
C4 29 1 18.792U IC = 12
L8 1 5 2.0000N
R24 1 5 114.32M
L12 5 4 10.0000N
.ENDS C94SA476X0020
*$
.SUBCKT FLYBACK_UCC28C4x 1   7   5  4  6 PARAMS: L=12u NC=100 NP=1 RB=6.8 F=190k EFF=1 TS=300n
*               VIN RTN VC VOUT D
*Used for voltage or current mode buck & buck-boost converters.
*{L} primary inductance in Henries
*{NC} current transformer turns ratio
*{NP} Power transformer turns ratio
*{F} switching frequency in Hz
*{EFF} efficiency
*{RB} current transformer burden resistor in ohms
*{TS} propagation delay time in the current loop
*
*B1 IS INPUT CURRENT
GB1 1 7 Value={ V(4)*I(VM1)/(EFF*V(1)) }
*B2 IS PEAK INDUCTOR CURRENT
EB2 2 7 Value={ IF ( V(5) > 0 , (V(5)*NC/(RB))+(V(1)*TS/L) , 0 ) }
*B3 IS MINIMUM INDUCTOR CURRENT
EB3 3 7 Value={ IF ( V(2)-(1/NP*V(4)/(L*F*(1+(1/NP*V(4)/V(1))))) > 0 , V(2)-(1/NP*V(4)/(L*F*(1+(1/NP*V(4)/V(1))))) , 0 ) }
*B4 IS OUTPUT CURRENT
GB4 7 8 Value={ L*F*EFF*(V(2)^2-V(3)^2)/(2*V(4)) }
*B5 IS DUTY CYCLE
EB5 6 7 Value={ IF ( L*F*(V(2)-V(3))/V(1) < 1 , L*F*(V(2)-V(3))/V(1) , 1 ) }
VM1 8 4
.ENDS FLYBACK_UCC28C4x 
*$
.SUBCKT XFMR 1 2 3 4 PARAMS: RATIO=1
* SINGLE WINDING TRANSFORMER 
Rpar 1 2 1MEG
Ea 5 4 VALUE = { V(1,2)*RATIO }
Ga 1 2 VALUE = { I(VMa)*RATIO }
Rser 6 3 1U
VMa 5 6 
RP2 5 0 100Meg
RP3 6 0 100Meg
.ENDS XFMR
*$
.SUBCKT MOC8101 1 2 3   5
* ISOLATOR      A C COL EMITTER
RB 4 0 100Meg
VM 1 6
D1 6 2 LED
H1 7 0 VM .0055
R1 7 8 1K
C1 8 0 3.35nF
G1 3 4 8 0 1
Q1 3 4 5 MPSA06
.MODEL LED D(N=1.7 RS=.7 CJO=23.9P IS=85.3p BV=6 IBV=10U 
+ VJ=0.75 M=0.333 TT=4.32U)
.MODEL MPSA06 NPN (IS=15.2F NF=1 BF=589 VAF=98.6 IKF=90M ISE=3.34P NE=2 
+ BR=4 NR=1 VAR=16 IKR=0.135 RE=0.343 RB=1.37 RC=0.137 XTB=1.5
+ CJE=9.67P VJE=1.1 MJE=0.5 CJC=7.34P VJC=0.3 MJC=0.3 TF=10.29n TR=276N)
.ENDS MOC8101
*$
.SUBCKT XFMRAUX 1    2    3     4     10    11  PARAMS: RATIO_POW=1 RATIO_AUX=1
*Connections     +Pri -Pri +SecP -SecP +SecA -SecA
*Parameters:
* Ratio = Secondary/Primary turns ratio
*
*  1_______   _______3
*    +     ) (          A VsPower
*          ) (_______4   
*    VPrim )  _______10
*          ) (
*    -     ) (          B VsAux
*  2_______) (_______11
*
*  RATIO_POW = 1:A
*  RATIO_AUX = 1:B
*
Rpri 1 2 1MEG
E1 5 4 Value={RATIO_POW*V(1,2)}
G1 1 2 Value={RATIO_POW*I(Vvs)}
Ra 6 3 1U
Vvs 5 6
E2 20 11 Value={RATIO_AUX*V(2,1)}
G2 2 1 Value={RATIO_AUX*I(Vaux)}
Rb2 21 10 1U
Vaux 20 21 
.ENDS XFMRAUX
*$
.SUBCKT MTD1N60E  100 20 30
*     TERMINALS:  D  G  S
LDRAIN  100  10  4.5e-09
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  2.80
RS  40  3  0.148
RG  20  2  150
CGS  2  3  218p
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  77.0p
R1  13  0  1.00
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1.00
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.50n
.MODEL DMOS  NMOS(LEVEL=1 LAMBDA=2.00m VTO=3.30 KP=0.896
.MODEL DCGD D (CJO=77.0p VJ=0.600 M=0.680
.MODEL DSUB D (IS=4.15n N=1.50 RS=70.0m BV=635
+ CJO=120.3p VJ=0.800 M=0.420 TT=464n
.MODEL DLIM D (IS=100U)
.ENDS MTD1N60E
*$
.MODEL SSR8045 D IS=9.3983E-6 N=1.9085 RS=4.8543E-3
+ CJO=2.8578E-9 M=.3333 VJ=.75
+ ISR=175.46E-6 BV=44.928 IBV=12.938E-3 TT=1.4427E-12
*$
*Diodes,Inc.
.MODEL DI_S1K D ( IS=7.31e-018 
+ RS=42.0m BV=800 IBV=5.00u CJO=42.4p  
+ M=0.333 N=0.775 TT=4.32u) 
*$
* Diodes, Inc.
.MODEL ES3B D (IS=7.27p RS=22.4m BV=100 IBV=10.0u
+ CJO=83.2p  M=0.333 N=0.700 TT=36.0n )
*$
.model MUR160	D(Is=1.043p Rs=74.44m Ikf=2.705m N=1 Xti=2 Eg=1.11 Cjo=28.43p
+		M=.6225 Vj=.75 Fc=.5 Isr=7.011n Nr=2 Tt=123.3n)
*$
.model MBR140P	D(Is=2.835u Rs=47.12m Ikf=.3227 N=1 Xti=0 Eg=1.11 Cjo=302.5p
+		M=.7206 Vj=.75 Fc=.5 Isr=16.98u Nr=2)
*$
